US09169212B2
A mixture of 1-chloropent-4-en-2-ol (23.40 g, 194.06 mmol, 1.00 Eq) and prop-2-en-1-amine (33.00 g, 578.03 mmol, 2.98 Eq) was stirred at 90° C. for 16 hr. The mixture was cooled to 25° C. and concentrated in reduced pressure at 60° C. The residue was poured into ice-water (w/w=1/1) (150 mL) and stirred for 20 min. The aqueous phase was extracted with EA. The combined organic phase was washed with saturated brine (200 mL*2), dried with anhydrous Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography (DCM:MeOH=30/1 to 10/1) to afford 1-(allylamino)pent-4-en-2-ol (16.00 g, 113.31 mmol, 58.39% yield) as yellow oil.

reactant | 1-chloropent-4-en-2-ol | 194.06 mmol, 23.40 g, 1.00 Eq | ClCC(CC=C)O | C5H9ClO
reactant | prop-2-en-1-amine | 578.03 mmol, 33.00 g, 2.98 Eq | C(C=C)N | C3H7N
product | 1-(allylamino)pent-4-en-2-ol | 113.31 mmol, 16.00 g, 58.39% yield | C(C=C)NCC(CC=C)O | C8H15NO
